US05051423
N-[4-[2-Hydroxy-3-[[2-[4-(1H-imidazol-1-yl)phenoxy]ethyl]amino]propoxy]phenyl]methanesulfonamide hydrochloride
To a solution of 2.3 g (0.008 mol) of 2-[4-(1H-imidazol-1-yl)phenoxy]ethanamine dihydrochloride in 100 ml of methanol add a solution of 0.66 g of sodium hydroxide in 5 mL of water. Stir for 15 minutes. Add 2.0 g (0.008 mol) of N-[4-(oxiranylmethoxy)phenyl]methanesulfonamide and reflux for 16 h. Monitor the progress of the reaction by thin-layer chromatography on silica gel (methylene chloride, methanol, triethylamine, 84:15:1). Remove the solvent in vacuo. Chromatograph the oil on 350 g of silica gel using amixture of methylene chloride:methanol:triethylamine (94:5:1). Combine the fractions containing residue and remove the solvent in vacuo. Dissolve theresidue in methanol and add a solution of hydrogen chloride in methanol. Remove the solvent in vacuo. Recrystallize the salt from acetonitrile:methanol to obtain the title compound.

reactant | 2-[4-(1H-imidazol-1-yl)phenoxy]ethanamine dihydrochloride | 0.008 mol, 2.3 g | Cl.Cl.N1(C=NC=C1)C1=CC=C(OCCN)C=C1
reactant | sodium hydroxide | 0.66 g | [OH-].[Na+]
reactant | N-[4-(oxiranylmethoxy)phenyl]methanesulfonamide | 0.008 mol, 2.0 g | O1C(C1)COC1=CC=C(C=C1)NS(=O)(=O)C | C10H13NO4S
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 5 mL | O | H2O
product | N-[4-[2-Hydroxy-3-[[2-[4-(1H-imidazol-1-yl)phenoxy]ethyl]amino]propoxy]phenyl]methanesulfonamide hydrochloride | Cl.OC(COC1=CC=C(C=C1)NS(=O)(=O)C)CNCCOC1=CC=C(C=C1)N1C=NC=C1 | InChI=1S/C21H26N4O5S.ClH/c1-31(27,28)24-17-2-6-21(7-3-17)30-15-19(26)14-22-11-13-29-20-8-4-18(5-9-20)25-12-10-23-16-25;/h2-10,12,16,19,22,24,26H,11,13-15H2,1H3;1H
